US07544697B2
Propyl iodide (0.43 mL, 4.46 mmol) and a solution of sodium ethoxide in ethanol (21%, 0.95 g, 3.27 mmol) were added to a solution of ethyl 5-ethyl-1H-pyrazole-3-carboxylate (0.5 g, 2.97 mmol) in ethanol (5 mL) at ambient temperature. The reaction was stirred overnight, and additional propyl iodide (0.05 mL) and sodium ethoxide in ethanol (21%, 0.1 g) were added. After 3 hours, the solvent was removed under reduced pressure and the residue was partitioned between an aqueous sodium chloride solution and methyl tert-butyl ether. The aqueous phase was extracted with methyl tert-butyl ether twice. The organic phases were combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield impure ethyl 5-ethyl-1-propyl-1H-pyrazole-3-carboxylate.

reactant | Propyl iodide | 4.46 mmol, 0.43 mL | C(CC)I | C3H7I
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl 5-ethyl-1H-pyrazole-3-carboxylate | 2.97 mmol, 0.5 g | C(C)C1=CC(=NN1)C(=O)OCC | C8H12N2O2
reactant | propyl iodide | 0.05 mL | C(CC)I | C3H7I
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 0.1 g | C(C)O | C2H6O
solvent | ethanol | 3.27 mmol, 0.95 g | C(C)O | C2H6O
product | ethyl 5-ethyl-1-propyl-1H-pyrazole-3-carboxylate | C(C)C1=CC(=NN1CCC)C(=O)OCC | C11H18N2O2
